US05508272
a) (S)-2-Phthalimido-5-oxo-5-(phenylmethoxy)-pentanoic acid
To a solution of γ-benzyl-L-glutamate (17.49 g., 73.70 mmol.) in aqueous (180 ml.) sodium carbonate (7.81 g., 73.70 mmol.) and dioxane (120 ml.) was added N-carbethoxyphthalimide (16.50 g., 75.27 mmol., 1.02 eq.). After stirring at room temperature for 4.5 hours, The reaction mixture was acidified with 6N hydrocloric acid (30 ml.) and extracted into ethyl acetate (2×400 ml.). The combined ethyl acetate extracts were washed with 50% brine (200 ml.), and brine (200 ml.), dried over sodium sulfate, filtered, concentrated and dried in vacuo to yield a crude oil (41.4 g.). To a solution of the crude residue in ethyl ether (100 ml.) was added dicyclohexylamine (14 ml.). After standing in the refrigerator overnight, the ethyl ether was removed by rotary evaporation and the oily residue was crystallized from ethyl acetate/hexane. The resulting precipitate was collected by filtration, washed with hexane and dried in vacuo to yield 21.21 g. of the title product as the dicyclohexyl amine salt. A suspension of this dicyclohexylamine salt in ethyl acetate (200 ml.) was washed with 5% potassium bisulfate (3×50 ml.), brine (50 ml.) and dried over magnesium sulfate, filtered and concentrated to yield 13.5 g. of the title product as a white foam. TLC: (3% acetic acid in 9:1 ethyl acetate:heptane) Rf =0.30.

reactant | γ-benzyl-L-glutamate | 73.70 mmol, 17.49 g | C(C1=CC=CC=C1)C(C[C@H](N)C(=O)[O-])C(=O)[O-]
reactant | sodium carbonate | 73.70 mmol, 180 ml, 7.81 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-carbethoxyphthalimide | 75.27 mmol, 16.50 g, 1.02 eq. | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
reactant | hydrocloric acid | 6N, 30 ml | Cl | ClH
reactant | dicyclohexylamine | 14 ml | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | dioxane | 120 ml | O1CCOCC1 | C4H8O2
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
product | (S)-2-Phthalimido-5-oxo-5-(phenylmethoxy)-pentanoic acid | C1(C=2C(C(N1[C@H](C(=O)O)CCC(OCC1=CC=CC=C1)=O)=O)=CC=CC2)=O | C20H17NO6
